US04521430
5.05 g of potassium carbonate are added to a mixture of 10.0 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 5.52 g of 2-(N-methyl-N-ethylamino)ethyl chloride hydrochloride and 100 ml of acetone. The mixture is refluxed under stirring overnight. After the reaction, the mixture is condensed under reduced pressure. The residue is dissolved in a mixture of ethyl acetate and water. The ethyl acetate layer is collected, dried and then evaporated to remove solvent. The residue is converted to its hydrochloride and then recrystallized from isopropanol. 12.28 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-methyl-N-ethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride are thereby obtained as colorless prisms. Yield: 87%.

reactant | potassium carbonate | 5.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 10.0 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=CC=C2 | C16H15NO3S
reactant | 2-(N-methyl-N-ethylamino)ethyl chloride hydrochloride | 5.52 g | Cl.CN(CC)CCCl
reactant | acetone | 100 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-methyl-N-ethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride | 12.28 g, Yield: 87% | Cl.COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(CC)C)C=CC=C2 | InChI=1S/C21H26N2O3S.ClH/c1-4-22(2)13-14-23-17-7-5-6-8-18(17)27-20(19(24)21(23)25)15-9-11-16(26-3)12-10-15;/h5-12,19-20,24H,4,13-14H2,1-3H3;1H/t19-,20+;/m1./s1
